US04987132
A solution of 380 mg of m-hydroxybenzaldehyde, 600 mg of 1-bromo-4-phenylbutane and 580 mg of potassium carbonate in 3 ml of N,N-dimethylformamide was stirred overnight at room temperature. After dilution with ethyl acetate, the reaction mixture was washed with water, 1N sodium hydroxide, water and saturated aqueous solution of sodium chloride, in that order, and then dried over anhydrous magnesium sulfate. The ethyl acetate layer was concentrated under reduced pressure to give 660 mg of m-(4-phenylbutoxy)benzaldehyde.

reactant | 1-bromo-4-phenylbutane | 600 mg | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | potassium carbonate | 580 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | m-(4-phenylbutoxy)benzaldehyde | 660 mg | C1(=CC=CC=C1)CCCCOC=1C=C(C=O)C=CC1 | C17H18O2
